US09422271B2
A mixture of 1-(5-cyclopropyl-3-(5-iodo-2-phenylpyrimidin-4-ylamino)-1H-pyrazol-1-yl)ethanone (3 g, 6.72 mmol, 1.0 equiv.), methyl acrylate (2.28 g, 26.8 mmol, 4.0 equiv.), Pd2(dba)3 (600 mg, 0.6 mmol, 0.1 equiv.), Cy2NMe (1.35 g, 7.2 mmol, 1.1 equiv.) and P(t-Bu)3 (540 mg, 2.4 mmol, 0.4 equiv.) in dioxane (100 mL) was heated to 120° C. for 3 h under nitrogen atmosphere. Then, the reaction mixture was cooled to room temperature and filtered. The residue was crystallized with methane/diisopropyl ether to afford (E)-methyl 3-(4-(1-acetyl-5-cyclopropyl-1H-pyrazol-3-ylamino)-2-phenylpyrimidin-5-yl)acrylate (200 mg, 7.3%). LC-MS (m/z): 404.1 [M+H]+. 1H NMR: (400 MHz, DMSO-d6) δ 0.83-0.84 (m, 2H), 1.03-1.04 (m, 2H), 2.04 (m, 1H), 2.64 (s, 3H), 3.77 (s, 3H), 6.83 (d, J=16.0 Hz, 1H), 6.84 (s, 1H), 7.57-7.58 (m, 3H), 7.71 (d, J=16.0 Hz, 1H), 8.34 (m, 2H), 8.97 (s, 1H), 10.74 (s, 1H).

reactant | 1-(5-cyclopropyl-3-(5-iodo-2-phenylpyrimidin-4-ylamino)-1H-pyrazol-1-yl)ethanone | 6.72 mmol, 3 g, 1.0 equiv. | C1(CC1)C1=CC(=NN1C(C)=O)NC1=NC(=NC=C1I)C1=CC=CC=C1 | C18H16IN5O
reactant | methyl acrylate | 26.8 mmol, 2.28 g, 4.0 equiv. | C(C=C)(=O)OC | C4H6O2
reactant | Cy2NMe | 7.2 mmol, 1.35 g, 1.1 equiv. | N(C1CCCCC1)(C1CCCCC1)C | C13H25N
reactant | P(t-Bu)3 | 2.4 mmol, 540 mg, 0.4 equiv. | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.6 mmol, 600 mg, 0.1 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-methyl 3-(4-(1-acetyl-5-cyclopropyl-1H-pyrazol-3-ylamino)-2-phenylpyrimidin-5-yl)acrylate | 200 mg, 7.3% | C(C)(=O)N1N=C(C=C1C1CC1)NC1=NC(=NC=C1/C=C/C(=O)OC)C1=CC=CC=C1 | C22H21N5O3
